US04352913
(CH3)2N(CH2)3NHCONH(CH2)6NHCONH(CH2)3N(CH3)2
204.3 g of dimethylaminopropylamine are added dropwise to a solution of 168.2 g of hexamethylene diisocyanate in 100 ml of methylene chloride and the mixture is refluxed overnight, in the process of which crystals precipitate. The crystals are filtered with suction at room temperature, washed with CH2Cl2 and dried. Recrystallisation from a mixture of 1000 ml of acetone and 800 ml of ethanol yields 221.0 g (59.3%) of product with a melting point of 159° C. Tritration: 2 equivalents=376.7 g (theory 372.6 g).

reactant | dimethylaminopropylamine | 204.3 g | CN(C)CCCN | C5H14N2
reactant | hexamethylene diisocyanate | 168.2 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (CH3)2N(CH2)3NHCONH(CH2)6NHCONH(CH2)3N(CH3)2 | 221.0 g, 59.3% | N(C)(C)CCCNC(=O)NCCCCCCNC(=O)NCCCN(C)C | C18H40N6O2
